US07504392B2
a) 3-Trifluoroacetyl-8-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine
To a mixture of 7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride (see EP 285287) (5.1 g, 25 mmol), triethylamine (8.4 mL, 60 mmol), and dichloromethane (100 mL) at 0° C., was added dropwise trifluoroacetic anhydride (3.5 mL, 26 mmol). The solution was stirred for 2 h without cooling then washed with saturated aqueous sodium hydrogen carbonate (100 mL), and water (100 mL), dried (MgSO4), and evaporated to give the title compound as a white solid (5.5 g).

reactant | 7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | 25 mmol, 5.1 g | Cl.COC1=CC2=C(CCNCC2)C=C1
reactant | triethylamine | 60 mmol, 8.4 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 26 mmol, 3.5 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-Trifluoroacetyl-8-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 5.5 g | FC(C(=O)N1CCC2=C(CC1)C=C(C=C2)OC)(F)F | C13H14F3NO2
